US08669266B2
(ii) 3-Amino-azetidine-1-carboxylic acid butyl ester
To a solution of 1.4 g 3-Benzyloxycarbonylamino-azetidine-1-carboxylic acid butyl ester in 50 ml ethyl acetate were added 150 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (1 bar) for 5 h. The reaction mixture was filtrated over a plug of Celite®, washed with ethyl acetate and concentrated. Yield: 740 mg colorless solid

reactant | 3-Benzyloxycarbonylamino-azetidine-1-carboxylic acid butyl ester | 1.4 g | C(CCC)OC(=O)N1CC(C1)NC(=O)OCC1=CC=CC=C1 | C16H22N2O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 3-Amino-azetidine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CC(C1)N | C8H16N2O2
